* C:\Users\ASUS\Desktop\FACULTAD\4to_anio\TC_2\TeoriadeCircuitos2\Circuitos\CircTarea1.asc
* Generated by LTspice 24.1.5 for Windows.
V1 N004 0 AC 1 0
R N001 N004 31.82K
C1 N001 0 10nF
R1 N005 N001 4.773K
C2 N003 N005 10nF
R3 N002 N003 4.773K
R5 0 N006 1.591K
X§U1 N003 N001 N002 opamp Aol=100K GBW=10Meg
X§U2 N003 N006 N005 opamp Aol=100K GBW=10Meg
R4 N006 N002 14.319K
.lib opamp.sub
.ac dec 1000 0.1 100K
.backanno
.end
